### PR TITLE
Model: final sorry for erase

### PR DESCRIPTION
**Pull request by Daniel1854**

### CODE REVIEW

File: Filrb/Internal/Model.lean [hunk 1]
```diff
@@ -169,11 +169,214 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+@[simp]
+theorem inorder_paintColor_independent (t : Raw α) :
+    (t.paintColor c).inorder = t.inorder := by
+  unfold paintColor
+  split <;> simp
+
+theorem baliL_inorder_independent {l r : Raw α}
+    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
+    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: Mathlib style prescribes:
```lean
theorem baliL_inorder_independent {l r : Raw α}
    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r) :
    (baliL x l r).inorder = l.inorder ++ x :: r.inorder := by
```

File: Filrb/Internal/Model.lean [hunk 2]
```diff
@@ -169,11 +169,214 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
     (t.insert x).inorder = sortedInsert t.inorder x := sorry
 
+theorem baldL_inorder_independent {l r : Raw α}
+    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
+    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baldL x l r).inorder = l.inorder ++ x :: r.inorder := by
+  unfold baldL
+  split
+  . aesop
+  . aesop (add norm baliR_inorder_independent)
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean:201]: Maybe if we mark `baliR_inorder_independent` as a forward rule?

File: Filrb/Internal/Model.lean [hunk 3]
```diff
@@ -169,11 +169,214 @@ theorem bst_iff_sorted_inorder {t : Raw α} : t.BST ↔ Sorted t.inorder := by
...
+  . aesop
+
+theorem baldR_inorder_independent {l r : Raw α}
+    (hl1 : ∀ y ∈ l, y < x) (hl2 : BST l)
+    (hr1 : ∀ y ∈ r, x < y) (hr2 : BST r)
+    : (baldR x l r).inorder = l.inorder ++ x :: r.inorder := by
+  unfold baldR
+  split
+  . aesop
+  . aesop (add norm baliL_inorder_independent)
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean:213]: Similar aesop forward idea here.

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: Filrb/Internal/Model.lean (hunk 2 above)
Comment (Daniel1854) [reply Filrb/Internal/Model.lean:201]: I tried some variants, but I didnt find any forward setup where the critical pair got built / the goal got automagically close
